US09120749B2
1-{6-Bromo-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}ethanone
Following general procedure B, 1-(6-bromo-4-chloroquinolin-3-yl)ethanone (116 mg, 0.408 mmol) was reacted with N1,N1-diethylcyclohexane-1,4-diamine (138 mg, 0.812 mmol) to afford the desired product (157 mg, 51%) as an off-white solid: ESI MS m/z 418 [C21H28BrN3O+H]+.

reactant | 1-(6-bromo-4-chloroquinolin-3-yl)ethanone | 0.408 mmol, 116 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)Cl | C11H7BrClNO
reactant | N1,N1-diethylcyclohexane-1,4-diamine | 0.812 mmol, 138 mg | C(C)N(C1CCC(CC1)N)CC | C10H22N2
product | 1-{6-Bromo-4-[4-(diethylamino)cyclohexylamino]quinolin-3-yl}ethanone | 157 mg, 51% | BrC=1C=C2C(=C(C=NC2=CC1)C(C)=O)NC1CCC(CC1)N(CC)CC | C21H28BrN3O
